US07262200B2
To 5-Phenyl-1H-pyrimidine-2,4-dione (110 mg, 0.585 mmol) and triethyl amine hydrochloride (317 mg, 2.3 mmol) was added POCl3 (15 mL) and the solution was heated to 120 C for 72 h. POCl3 was removed in vacuum and the resulting brown oil was quenched with ice water and treated with saturated NaHCO3, extracted with ethyl acetate, washed with brine, dried (Na2SO4) to give 2,4-Dichloro-5-phenyl-pyrimidine 131 mg (100% yield). HPLC tr=7.09 min (100%), FIA-MS 224.9 (M+H), HNMR (500 MHz, CDCl3) δ8.49 (1H, s), 7.45 (3H, m), 7.35 (2H, m).

reactant | 5-Phenyl-1H-pyrimidine-2,4-dione | 0.585 mmol, 110 mg | C1(=CC=CC=C1)C=1C(NC(NC1)=O)=O | C10H8N2O2
reactant | triethyl amine hydrochloride | 2.3 mmol, 317 mg | Cl.C(C)N(CC)CC
reactant | POCl3 | 15 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2,4-Dichloro-5-phenyl-pyrimidine | 131 mg, 100% yield | ClC1=NC=C(C(=N1)Cl)C1=CC=CC=C1 | C10H6Cl2N2
